US20010046641A1
180 g of 2-Ethyl-2-adamantanol, 303 g of triethylamine and 500 g of methylisobutyl ketone were mixed by stirring at 40° C. While stirring, 136 g of acrylic acid chloride was added dropwise to the mixture. After completion of the dropwise addition, the mixture was stirred for three more hours. Then, extraction and distillation were conducted to obtain 2-ethyl-2-adamantyl acrylate at the yield of 80%.

reactant | 2-Ethyl-2-adamantanol | 180 g | C(C)C1(C2CC3CC(CC1C3)C2)O | C12H20O
reactant | triethylamine | 303 g | C(C)N(CC)CC | C6H15N
reactant | acrylic acid chloride | 136 g | C(C=C)(=O)Cl | C3H3ClO
solvent | methylisobutyl ketone | 500 g | CC(=O)CC(C)C | C6H12O
product | 2-ethyl-2-adamantyl acrylate | yield of 80% | C(C=C)(=O)OC1(C2CC3CC(CC1C3)C2)CC | C15H22O2
